US07871998B2
(4S)-3-[({[2-(4-Methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one
({[2-(4-Methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetic acid (5.4 g, 16.5 mmol) was dissolved in dry CH2Cl2 (80 ml) and cooled to 0° C. N,N′-dicyclohexylcarbodiimide (DCC, 3.76 g; 18.2 mmol) in 20 ml of CH2Cl2 and 4-(dimethylamino)pyridine (DMAP, 4.04 g, 33.1 mmol) were added and the mixture was stirred at 0° C. for 30 minutes. (S)-(+)-4-Phenyl-2-oxazolidinone (2.69 g, 16.5 mmol) was added and the mixture was stirred at room temperature for 17 h. The mixture was filtered, concentrated under reduced pressure and purified by flash-chromatography (hexane:EtOAc 4:1 then 2:1). This afforded 5.69 g (73%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.3 (s, 3H), 2.8 (s, 2H), 3.4 (s, 4H), 3.8 (s, 2H), 3.8 (s, 3H), 4.3 (dd, 1H), 4.7 (t, 1H), 5.4 (dd, 1H), 6.9 (d, 2H), 7.3 (m, 7H).

reactant | ({[2-(4-Methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetic acid | 16.5 mmol, 5.4 g | COC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CSCC(=O)O | C16H22O5S
reactant | N,N′-dicyclohexylcarbodiimide | 18.2 mmol, 3.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-(+)-4-Phenyl-2-oxazolidinone | 16.5 mmol, 2.69 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 33.1 mmol, 4.04 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4S)-3-[({[2-(4-Methoxyphenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one | COC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CSCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C25H29NO6S
